US09340538B2
Step B: Diethyl 2-(morpholin-3-ylmethyl)malonate
Diethyl 2-((4-benzylmorpholin-3-yl)methyl)malonate (1 g, 2.86 mmol) was reacted with Pd/C (10%, 0.1 g) according to the procedure as described in Example 34, Step C to give the title compound as colorless oil (0.66 g, 89%). The compound was characterized by the following spectroscopic data:

reactant | Diethyl 2-((4-benzylmorpholin-3-yl)methyl)malonate | 2.86 mmol, 1 g | C(C1=CC=CC=C1)N1C(COCC1)CC(C(=O)OCC)C(=O)OCC | C19H27NO5
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | Diethyl 2-(morpholin-3-ylmethyl)malonate | 0.66 g, 89% | N1C(COCC1)CC(C(=O)OCC)C(=O)OCC | C12H21NO5
